US07514571B2
Using 4-amino-1-methylbicyclo[2,2,2]octane (75.0 mg) and (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile (110 mg), the same procedure was followed as in Example 1 to obtain (2S)-1-[[N-(4-methylbicyclo[2,2,2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile (84.0 mg).

reactant | 4-amino-1-methylbicyclo[2,2,2]octane | 75.0 mg | NC12CCC(CC1)(CC2)C | C9H17N
reactant | (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile | 110 mg | BrCC(=O)N1[C@@H](CCC1)C#N | C7H9BrN2O
product | (2S)-1-[[N-(4-methylbicyclo[2,2,2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile | 84.0 mg | CC12CCC(CC1)(CC2)NCC(=O)N2[C@@H](CCC2)C#N | C16H25N3O
